US05169427
573 g(2.65 mol) of methyl 1-methyl-2-chloro-2,3,3-trifluor-cyclobutane-1-carboxylate, 233 g (5.8 mol) of sodium hydroxide and 1000 ml of water are stirred at 80° C.for three hours. The mixture is acidifed with concentrated hydrochloric acid and extracted with dichloromethane, and the organic phases are dried and distilled. 472 g (88% of theory) of 1-methyl-2-chloro2,3,3-trifluoro-cyclobutane-1-carboxylic acid are obtained, boiling point: 112°-116° C./21.4 mbar (60% transisomer, 40% cis-isomer).

reactant | methyl 1-methyl-2-chloro-2,3,3-trifluor-cyclobutane-1-carboxylate | 2.65 mol, 573 g | CC1(C(C(C1)(F)F)(F)Cl)C(=O)OC | C7H8ClF3O2
reactant | sodium hydroxide | 5.8 mol, 233 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1000 ml | O | H2O
product | 1-methyl-2-chloro2,3,3-trifluoro-cyclobutane-1-carboxylic acid | 472 g, 88% | CC1(C(C(C1)(F)F)(F)Cl)C(=O)O | C6H6ClF3O2
